US06747024B1
30.2) 1-propyl-2,3-dihydro-1H-indol-5-ylamine
Approximately 400 mg of Raney nickel is added to a mixture of 3.28 g (15.9 mmol) of 5-nitro-1-propylindoline and 4 ml (80 mmol) of hydrazine hydrate in 60 ml of absolute ethanol. The reaction mixture is heated under reflux for 5 hours. After returning to 23° C., a little silica is added to the flask and the solvent is evaporated off under vacuum. The evaporation residue is placed directly at the top of a chromatography column. The expected product is eluted using a Heptane/AcOEt mixture (1/9). A black oil is obtained which is used directly in the following stage.

reactant | 5-nitro-1-propylindoline | 15.9 mmol, 3.28 g | [N+](=O)([O-])C=1C=C2CCN(C2=CC1)CCC | C11H14N2O2
reactant | hydrazine hydrate | 80 mmol, 4 ml | O.NN
catalyst | Raney nickel | 400 mg | [Ni] | Ni
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-propyl-2,3-dihydro-1H-indol-5-ylamine | C(CC)N1CCC2=CC(=CC=C12)N | C11H16N2
